US06465467B1
2-(2-Chlorophenoxy)ethyl 3-(4-ethyl-1-piperazinyl)-2-pyrazinyl Ether
The title compound was prepared in an analogous manner to Example 4, Step 2, starting from 2-chloro-3-[2-(2-chlorophenoxy)ethoxy]pyrazine* (150 mg, 0.53 mmol) and N-ethylpiperazine (221 mg, 1.93 mmol) with the exception that a final extraction step between EtOAc and 5% aqueous NaOH was carried out. This gave 100 mg (52%) of the title product. Anal. (C18H24C14O2) C, H, N.

reactant | 2-chloro-3-[2-(2-chlorophenoxy)ethoxy]pyrazine | ClC1=NC=CN=C1OCCOC1=C(C=CC=C1)Cl | C12H10Cl2N2O2
reactant | N-ethylpiperazine | 1.93 mmol, 221 mg | C(C)N1CCNCC1 | C6H14N2
product | 2-(2-Chlorophenoxy)ethyl 3-(4-ethyl-1-piperazinyl)-2-pyrazinyl Ether | C(C)N1CCN(CC1)C=1C(=NC=CN1)OCCOC1=C(C=CC=C1)Cl | C18H23ClN4O2
